US06239131B1
Preparation of (R)-(−)-1-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(4-tert-butoxycarbonylphenyl)urea
(R)-1-(2-oxo-5-cyclohexyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(4-tert-butoxycarbonylphenyl)urea (500 mg) was dissolved in N,N-dimethylformamide (5 ml), the solution was cooled to internal temperature 5° C. Under argon atmosphere, 60% sodium hydride (49 mg) was added, the mixture was stirred at internal temperature 5° C. for 30 minutes. Bromomethyl tert-butylketone (218 mg) was added thereto, stirred at internal temperature 5° C. for one hour. The reaction mixture was poured into ice-water, extracted with ethyl acetate. The organic layer was successively washed with water and saturated brine, dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform), to thereby obtain 200 mg of the title compound.

reactant | (R)-1-(2-oxo-5-cyclohexyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(4-tert-butoxycarbonylphenyl)urea | 500 mg | O=C1[C@@H](CN(C2=C(N1)C=C(C=C2)C)C2CCCCC2)NC(=O)NC2=CC=C(C=C2)C(=O)OC(C)(C)C | C28H36N4O4
reactant | sodium hydride | 49 mg | [H-].[Na+]
reactant | Bromomethyl tert-butylketone | 218 mg | BrCC(=O)C(C)(C)C | C6H11BrO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (R)-(−)-1-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(4-tert-butoxycarbonylphenyl)urea | 200 mg | C(C)(C)(C)C(=O)CN1C([C@@H](CN(C2=C1C=C(C=C2)C)C2CCCCC2)NC(=O)NC2=CC=C(C=C2)C(=O)OC(C)(C)C)=O | C34H46N4O5
